US06727264B1
N-(3-{1-[5-(3-ACETYLPHENOXY)PENTYL]-4-PIPERIDINYL}PHENYL)CYCLOPROPANECARBOXAMIDE:
Prepared by Procedure G and Scheme B1 using 1-{3-[(5-chloropentyl)oxy]phenyl}ethanone and N-[3-(4-piperidinyl)phenyl]cyclopropanecarboxamide: ESMS m/e: 449.2 (M+H)+.

reactant | 1-{3-[(5-chloropentyl)oxy]phenyl}ethanone | ClCCCCCOC=1C=C(C=CC1)C(C)=O | C13H17ClO2
reactant | N-[3-(4-piperidinyl)phenyl]cyclopropanecarboxamide | N1CCC(CC1)C=1C=C(C=CC1)NC(=O)C1CC1 | C15H20N2O
product | N-(3-{1-[5-(3-ACETYLPHENOXY)PENTYL]-4-PIPERIDINYL}PHENYL)CYCLOPROPANECARBOXAMIDE | C(C)(=O)C=1C=C(OCCCCCN2CCC(CC2)C=2C=C(C=CC2)NC(=O)C2CC2)C=CC1 | C28H36N2O3
